US09227978B2
2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)-1-(piperazin-1-yl)ethanone
To a solution of tert-butyl-4-(2-(5-(2-chlorophenyl)-4-chloro-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate (150 mg, 0.304 mmol) in DCM (2 mL), a solution of HCl in MeOH (10 mL, 29 mmol) was added. The mixture was stirred at room temperature for 1 h and then concentrated in vacuo to afford the crude product which was used in the next step without further purification.

reactant | tert-butyl-4-(2-(5-(2-chlorophenyl)-4-chloro-2-methoxyphenylamino)acetyl)piperazine-1-carboxylate | 0.304 mmol, 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C(CNC1=C(C=C(C(=C1)C1=C(C=CC=C1)Cl)Cl)OC)=O | C24H29Cl2N3O4
reactant | HCl | Cl | ClH
reactant | MeOH | 29 mmol, 10 mL | CO | CH4O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-(2-Chlorophenyl)-4-chloro-2-methoxyphenylamino)-1-(piperazin-1-yl)ethanone | ClC1=C(C=CC=C1)C=1C(=CC(=C(C1)NCC(=O)N1CCNCC1)OC)Cl | C19H21Cl2N3O2
